US05932601
In substantially the same manner as in Working Example 11, 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-propoxycinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-propoxyphenyl]propyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-ether to give colorless needles, m.p.119-120° C.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-propoxycinnamaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=C(C=C(C=CC=O)C=C1)OCCC | C23H23NO4
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 5-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-propoxyphenyl]propyl]-2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OCCC | C26H28N2O6
